US07625902B2
(S)-3-Benzenesulfonyl-5-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-2-oxo-imidazolidine-1-carboxylic acid benzyl ester (300 mg) in ethyl acetate (3 mL) were hydrogenated in the presence of 10% Pd/C (28 mg). After removal of the catalyst and evaporation of the solvent, the residue was purified by column chromatography (SiO2, ethyl acetate) to yield (S)-1-benzenesulfonyl-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one (120 mg) as a white solid. MS: 443.4 ([M+H]+)

reactant | (S)-3-Benzenesulfonyl-5-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-2-oxo-imidazolidine-1-carboxylic acid benzyl ester | 300 mg | C(C1=CC=CC=C1)OC(=O)N1C(N(C[C@H]1C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)S(=O)(=O)C1=CC=CC=C1)=O | C30H32N4O6S
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 28 mg | [Pd] | Pd
product | (S)-1-benzenesulfonyl-4-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-imidazolidin-2-one | 120 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(N[C@@H](C1)C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)=O | C22H26N4O4S
